US06518423B1
1-Benzylpiperidin-4-ylideneethyl vinyl ether
To a solution of 1.08 g of (1-benzylpiperidin-4-ylidene)ethanol in vinyl ethyl ether (30 ml) was added in a nitrogen atmosphere 0.107 g of mercurous trifluoroacetate. After stirring at room temperature for 18 hours, 10 ml of a 10% aqueous solution of sodium hydroxide was added thereto and the resulting mixture was extracted with n-hexane (50 ml). The organic layer was washed with an aqueous solution of sodium chloride (3×10 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure to thereby give 1.153 g of the title compound as a colorless oily substance.

reactant | (1-benzylpiperidin-4-ylidene)ethanol | 1.08 g | C(C1=CC=CC=C1)N1CCC(CC1)=C(C)O | C14H19NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | vinyl ethyl ether | 30 ml | C(C)OC=C | C4H8O
product | 1-Benzylpiperidin-4-ylideneethyl vinyl ether | 1.153 g | C(=C)OCC=C1CCN(CC1)CC1=CC=CC=C1 | C16H21NO
